US08334287B2
2-(2-methoxy-ethyl)-5-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-2H-pyridazin-3-one
The title compound, light yellow viscous oil, MS: m/e=349.4 (M+H+), was prepared in accordance with the general method of example 21a from 2-(2-methoxy-ethyl)-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one and 1-ethynyl-3-methyl-benzene.

reactant | 2-(2-methoxy-ethyl)-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | COCCN1N=CC(=CC1=O)N1C(=NC(=C1)I)C | C11H13IN4O2
reactant | 1-ethynyl-3-methyl-benzene | C(#C)C1=CC(=CC=C1)C | C9H8
product | 2-(2-methoxy-ethyl)-5-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-2H-pyridazin-3-one | COCCN1N=CC(=CC1=O)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C | C20H20N4O2
